US08629144B2
Under inert atmosphere 255 g 6-iodoquinoline (1 mol) is dissolved in THF and cooled to −20° C. and 808 g IpMgCl.LiCl (1.1 moles) is added. This cold solution is added to a solution of 438 g diethyloxalate (3 moles) in 1800 mL THF at low temperature (−78° C.). The reaction mixture is heated to 0° C. and is quenched with a saturated ammonium acetate solution (0.8 L/mole). Ethyl oxo(quinolin-6-yl)acetate is extracted with ethyl acetate (1 L) from this mixture. After chromatography (silica, heptanes/ethyl acetate) ethyl oxo(quinolin-6-yl)acetate was obtained in 70% yield.

reactant | 6-iodoquinoline | 1 mol | IC=1C=C2C=CC=NC2=CC1 | C9H6IN
reactant | LiCl | 1.1 moles | [Li+].[Cl-]
reactant | diethyloxalate | 3 moles, 438 g | C(C)OC(C(=O)OCC)=O | C6H10O4
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1800 mL | C1CCOC1 | C4H8O
product | ethyl oxo(quinolin-6-yl)acetate | 70% yield | O=C(C(=O)OCC)C=1C=C2C=CC=NC2=CC1 | C13H11NO3
